US04897490
tert-Butyl 9,9-bis(2-fluoro-4-methylphenyl)-5-hydroxy-8-(1-methyl-1H-tetrazol-5-yl)-3-oxo-6,8-nonadienoate
To a solution of 5,5-bis(2-fluoro-4-methylphenyl)-4-(1-methyl-1H-tetrazol-5-yl)-2,4-pentadienal (1.3 g, 3.4 mmoles) in tetrahydrofuran (15 mL) at -50 ° C. was added the dianion of t-butyl acetoacetate (3.4 mL of a 1M solution, 3.4 mmoles). After stirring for 2 hours, another 0.7 mL of dianion solution was added and the solution stirred for an additional hour. The reaction was quenched with 1N hydrochloric acid and the mixture extracted with methylene chloride. The extracts were dried (MgSO4) and concentrated. The residue was purified by column chromatography on silica gel eluting with 1% (v/v) methanol in methylene chloride to give 1.3 g of the title compound; m.p.=55°-63° C.

reactant | 5,5-bis(2-fluoro-4-methylphenyl)-4-(1-methyl-1H-tetrazol-5-yl)-2,4-pentadienal | 3.4 mmoles, 1.3 g | FC1=C(C=CC(=C1)C)C(=C(C=CC=O)C1=NN=NN1C)C1=C(C=C(C=C1)C)F | C21H18F2N4O
reactant | t-butyl acetoacetate | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | tert-Butyl 9,9-bis(2-fluoro-4-methylphenyl)-5-hydroxy-8-(1-methyl-1H-tetrazol-5-yl)-3-oxo-6,8-nonadienoate | 1.3 g | FC1=C(C=CC(=C1)C)C(=C(C=CC(CC(CC(=O)OC(C)(C)C)=O)O)C1=NN=NN1C)C1=C(C=C(C=C1)C)F | C29H32F2N4O4
